2202-05-04 06:35:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   No overnight events
   Allergies:
   Ciprofloxacin
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Nitroglycerin - 1 mcg/Kg/min
   Heparin Sodium - 1,000 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2202-5-3**] 10:35 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2202-5-4**] 06:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**04**] AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98
   HR: 65 (65 - 81) bpm
   BP: 106/50(63) {106/50(63) - 143/94(101)} mmHg
   RR: 14 (14 - 20) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                    206 mL
                                                                    332 mL
   PO:
                                                                    120 mL
                                                                     60 mL
   TF:
   IVF:
                                                                     86 mL
                                                                    272 mL
   Blood products:
   Total out:
                                                                  1,800 mL
                                                                    990 mL
   Urine:
                                                                    500 mL
                                                                    990 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,594 mL
                                                                   -658 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 93%
   ABG: ////
   Physical Examination
   Gen: WDWN female in NAD. Oriented x3. Mood, affect appropriate.
   HEENT: Sclera anicteric. EOMI. Conjunctiva were pink, no pallor or
   cyanosis of the oral mucosa. No xanthalesma.
   Neck: Supple with JVP difficult to assess [**3-2**] prominent carotid pulse
   and EJ, but ~10 cm.
   CV: RR, prominent S1, S2. GIII holosystolic murmer at apex, GII
   holosystolic murmer at LSB, GII systolic murmer at RUSB. RV heave. No
   S3 or S4.
   Chest: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. Rales at bases b/l, no wheezes or
   rhonchi.
   Abd: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   Ext: No c/c. 2+ pitting edema at ankles.
   Skin: No stasis dermatitis, ulcers, scars, or xanthomas. Bandaged left
   second toe.
   .
   Pulses:
   Right: Carotid 2+ DP thready
   Left: Carotid 2+ DP thready
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   314 K/uL
   4.0 mEq/L
        [image002.jpg]
                             [**2202-5-3**]  10:30 PM
   Plt
   314
   Other labs: CK / CKMB / Troponin-T:229/35/
   Assessment and Plan
 PNEUMONIA, [**Hospital 57**] HOSPITAL ACQUIRED (NON-VAP)
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 .H/O RENAL ARTERY STENOSIS (RAS)
   Assessment and Plan
   Ms. [**Known lastname 5115**] is an 80 year old woman with a history of aortic stenosis
   s/p mechanical AVR [**8-4**], atrial fibrillation s/p cardioversion, HTN,
   GERD, and PVD who presented [**2202-4-25**] for elective coronary and renal
   angiogram complicated by pna and [**Last Name (un) **] and is transferred to the CCU s/p
   cath for hemodynamic monitoring.
   .
   #. CAD/NSTEMI:  Had overlapping BMSx2 to LCx and could not open chronic
   total occlusion of OM1.  Post-cath chest pain and anterior ST changes
   suggestive of LAD as site of culprit lesion for chest pain.  Will
   return to cath lab in a.m. for re-engagement of LAD.
   - continue aspirin, plavix
   - restart heparin 6 hrs after sheath pulled
   - continue nitro gtt, try to wean off
   - continue statin, carvedilol
   - Transfusing 1 unit PRBCs to improve coronary and renal perfusion
   - no integrelin given ARF
   - cath later this afternoon
   .
   #. history of AS s/p mechanical AVR: in [**2199**]. Last TTE shows EF >50%,
   [**1-30**]+MR, 3+TR. Following chest pain, patient found to have new S3,
   crackles on lung exam, concerning for heart failure. Patient does not
   have baseline BNP
   - heparin gtt
   - hold warfarin until post-procedure; INR goal presumed to be 2.5-3.5
   - lasix as needed for SOB
   .
   #. Atrial fibrillation: Patient with h/o Afib s/p cardioversion.
   Currently in NSR.
   - heparin gtt for now
   - continue amiodarone, carvedilol
   .
   #. Pneumonia:  found to have left midlobe pneumonia.
   - continue vanc and cefepime (day 1 - [**2202-4-27**]) Last day of 8 day
   regimen is today
   - f/u blood cultures
   .
   #. CKD/Renal Artery Stenosis: Patient with severe 95% R renal artery
   stenosis now s/p stenting on [**2202-4-26**]. Creatinine worsened in setting of
   cardiac and renal angiogram, may have been due to IV contrast,
   embolized plaque from stenting, newly started antibiotics,
   hypoperfusion of kidneys from hypotension. Renal function gradually
   improving.
   - monitor renal function
   - renally dose meds
   .
   #. Hypertension:
   - continue carvedilol
   .
   #. GERD: Stable.
   - changed pantoprazole to ranitidine and renally dosed
   .
   #. Thyroid nodules/thyroid goiter: Continue home Levothyroxine.
   .
   #. Urinary Dysfunction: Continue home Terazosin, Oxybutynin per home
   regimen.
   .
   #. Degenerative joint disease: Pain control with Tylenol as per home
   regimen.
   .
   #. s/p cholesterol emboli to left eye:
   - continue anticoagulation
   .
   #. FEN: Cardiac HH diet; NPO at MN
   #. Access: PIV
   #. PPx: DVT ppx with Heparin gtt
   Bowel regimen with Senna, Colace prn
   Pain control with Tylenol
   #. Code: Full code per patient
   #. Contact: [**Name (NI) **] [**Name (NI) 5115**] (husband) # cell: [**Telephone/Fax (1) 12064**]
   Dr. [**First Name4 (NamePattern1) 297**] [**Last Name (NamePattern1) **]: [**Telephone/Fax (1) 12065**]
   #. Dispo: ccu
   .
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   22 Gauge - [**2202-5-3**] 10:30 PM
   20 Gauge - [**2202-5-3**] 10:30 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  cath lab then CCU
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) **].
   I would add the following remarks:
   ------ Protected Section Addendum Entered By:[**Name (NI) 149**] [**Last Name (NamePattern1) **], MD
   on:[**2202-5-5**] 14:33 ------

2202-05-06 07:43:00 Physician Resident Progress Note
Chief Complaint: Chief Complaint: referred for right renal artery
   stenting and coronary angiography, course complicated by [**Hospital 238**]
   transfered to the CCU s/p catheterization and placement of stent to
   left circumflex.
   24 Hour Events:
   [**5-5**]
   - BNP 78,000+
   - started ipratropium
   - anuric (5 cc, nonsterile collection) FENa = 1.8; FEUrea = 10.1, rare
   + eos
   - 250 cc bolus + 1 unit blood, eating & drinking, BP stable held off on
   further IVF
   - pm lytes w/ worsened renal fxn creat 2.7 -> 3.6
   - renal u/s w/ dopplers - no hydronephrosis, good blood flow to both
   kidneys but pt unable to breath hold for exam
   - CT chest d/t concern for loc effusions & ?empyema on CXR showed:
   bilat mod sized pleural effusions. R is dependent, L is loculated.
   Multifocal opacity & ground glass consolidation.  Mediastinal
   lymphadenopathy.  Enhancement of renal parenchyma, likely retained
   contrast
   - Decided not to give furhter fluid, because was already 1.4 L positive
   for the day.
   Allergies:
   Ciprofloxacin
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,000 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2202-5-6**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**04**] AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.3
C (97.4
   HR: 63 (55 - 71) bpm
   BP: 126/54(71) {91/38(51) - 161/101(106)} mmHg
   RR: 18 (15 - 23) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  1,436 mL
                                                                     76 mL
   PO:
                                                                    580 mL
             TF:
   IVF:
                                                                    481 mL
                                                                     76 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                     20 mL
                                                                     10 mL
   Urine:
                                                                     20 mL
                                                                     10 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,416 mL
                                                                     67 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 96%
   ABG: ///27/
   Physical Examination
   Gen: WDWN female in NAD. Oriented x3. Mood, affect appropriate.
   HEENT: Dry MMM
   Neck: Supple with JVP flat
   CV: RR, prominent S1, S2. GIII holosystolic murmer at apex, GII
   holosystolic murmer at LSB, GII systolic murmer at RUSB. No S3 or S4.
   Chest: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. Rales at bases b/l, no wheezes or
   rhonchi.
   Abd: Soft, NTND. No HSM or tenderness.
   Ext: No c/c. 2+ pitting edema at ankles.
   Skin: No stasis dermatitis, ulcers, scars, or xanthomas.
   Pulses:  R femoral pulse 1+, no hematomas noted
   Labs / Radiology
   291 K/uL
   8.7 g/dL
   119 mg/dL
   3.6 mg/dL
   27 mEq/L
   4.6 mEq/L
   47 mg/dL
   88 mEq/L
   128 mEq/L
   25.8 %
   16.7 K/uL
        [image002.jpg]
                             [**2202-5-3**]  10:30 PM
                             [**2202-5-4**]  06:10 AM
                             [**2202-5-4**]  02:15 PM
                             [**2202-5-4**]  05:43 PM
                             [**2202-5-4**]  09:54 PM
                             [**2202-5-5**]  02:40 AM
                             [**2202-5-5**]  03:47 PM
   WBC
   10.4
   11.7
   16.7
   16.7
   Hct
   23.8
   28.9
   27.1
   25.8
   Plt
   [**Telephone/Fax (3) 12078**]
   Cr
   1.8
   2.7
   3.6
   TropT
   3.32
   5.60
   Glucose
   123
   123
   119
   Other labs: PT / PTT / INR:12.9/72.0/1.1, CK / CKMB /
   Troponin-T:427/22/5.60, ALT / AST:22/128, Alk Phos / T Bili:65/2.0,
   Lactic Acid:1.7 mmol/L, LDH:966 IU/L, Ca++:8.4 mg/dL, Mg++:2.1 mg/dL,
   PO4:4.1 mg/dL
   Imaging: Renal U/S [**2202-5-6**]:
   1. Normal-sized kidneys with no evidence of hydronephrosis.
   2. A likely dilated or calyceal diverticulum in the right kidney which
   contains milk of calcium.
   3. Patient was unable to breathhold due to dyspnea, and therefore an
   accurate
   evaluation of the renal arteries could not be performed.
   Assessment and Plan
 PULMONARY EDEMA
 PNEUMONIA, [**Hospital 57**] HOSPITAL ACQUIRED (NON-VAP)
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 .H/O RENAL ARTERY STENOSIS (RAS)
   Assessment and Plan
   Ms. [**Known lastname 5115**] is an 80 year old woman with a history of aortic stenosis
   s/p mechanical AVR [**8-4**], atrial fibrillation s/p cardioversion, HTN,
   GERD, and PVD who presented [**2202-4-25**] for elective coronary and renal
   angiogram complicated by pna and [**Last Name (un) **] and is transferred to the CCU s/p
   cath for hemodynamic monitoring.
   .
   #. CAD/NSTEMI:  Had overlapping BMSx2 to LCx and could not open chronic
   total occlusion of OM1.  Post-cath chest pain and anterior ST changes
   suggestive of LAD as site of culprit lesion for chest pain.  Upon
   return to the cath lab again could not open chronic total OM1
   occlusion, instead placed BMS to mid LAD calcified 80% lesion that had
   collaterals to inferior wall. Pt returned to floor CP free.
   - continue aspirin, plavix, atorvastatin 40
   - restarted heparin 6 hrs after sheath pulled (without bolus)
   - nitro gtt weaned off
   - continue metoprolol 25mg PO TID
   - no integrelin given ARF
   .
   # ARF on CKD/Renal Artery Stenosis: Patient with severe 95% R renal
   artery stenosis now s/p stenting on [**2202-4-26**]. Creatinine worsened in
   setting of cardiac and renal angiogram, may have been due to IV
   contrast, embolized plaque from stenting, newly started antibiotics,
   hypoperfusion of kidneys from hypotension. Creatinine continues to
   worsen, and now anuric. Renal u/s with Doppler flow negative.
   - Renal consult
   - [**Hospital1 **] lytes
   - If lytes become abnormal, will consider dialysis
   - 250cc boluses titrate to urine output but cautiously monitor
   respiratory status
   - renally dose meds
 ask pharmacy for assistance
   # Hypoxia: Most likely [**3-2**] bilateral moderate pleural effusions, L
   sided loculated. Etiology of effusions may be parapneumonic or empyema
   given white count and fevers and recent PNA. Heart failure possible
   contributor but unlikely the sole contributor given bilaterality and
   loculations. Abx course complete. PE less likely as we have a good
   reason for the hypoxia.
   - Recommend diagnostic and therapeutic thoracentesis to rule out
   empyema
   - Nebs and mucolytics
   - Would recommend therefore dc
ing heparin for 2 ours prior to [**Female First Name (un) **]
   - Reculture if spikes
   #. history of AS s/p mechanical AVR: in [**2199**]. Last TTE shows EF >50%,
   [**1-30**]+MR, 3+TR. Following chest pain, patient found to have new S3,
   crackles on lung exam, concerning for heart failure. Patient does not
   have baseline BNP
   - heparin gtt until INR therapeutic
   - restart warfarin tomorrow, goal presumed to be 2.5-3.5
   .
   #. Atrial fibrillation: Patient with h/o Afib s/p cardioversion.
   Currently in NSR.
   - heparin gtt for now
   - continue amiodarone, metoprolol
   - consider restarting warfarin after [**Female First Name (un) **]
   .
   #. Hypertension:
   - continue metoprolol
   .
   #. GERD: Stable.
   - changed pantoprazole to ranitidine and renally dosed
   .
   #. Thyroid nodules/thyroid goiter: Continue home Levothyroxine.
   .
   #. Urinary Dysfunction: Continue home Terazosin, Oxybutynin per home
   regimen.
   .
   #. Degenerative joint disease: Pain control with Tylenol as per home
   regimen.
   .
   #. s/p cholesterol emboli to left eye:
   - continue anticoagulation
   .
   #. FEN: Cardiac HH diet; NPO at MN
   #. Access: PIV
   #. PPx: DVT ppx with Heparin gtt
   Bowel regimen with Senna, Colace prn
   Pain control with Tylenol
   #. Code: Full code per patient
   #. Contact: [**Name (NI) **] [**Name (NI) 5115**] (husband) # cell: [**Telephone/Fax (1) 12064**]
   Dr. [**First Name4 (NamePattern1) 297**] [**Last Name (NamePattern1) **]: [**Telephone/Fax (1) 12065**]
   #. Dispo: ccu
   .
   ICU Care
   Nutrition: Cardiac diet
   Glycemic Control:
   Lines:
   22 Gauge - [**2202-5-3**] 10:30 PM
   20 Gauge - [**2202-5-3**] 10:30 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: Comments: Will readdress goals of care with patient and
   husband today
   [**Name2 (NI) 66**] status: Full code
   Disposition: CCU
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) **].
   I would add the following remarks:
   ------ Protected Section Addendum Entered By:[**Name (NI) 149**] [**Last Name (NamePattern1) **], MD
   on:[**2202-5-6**] 15:39 ------

2202-05-07 07:20:00 Physician Resident Progress Note
Chief Complaint: referred for right renal artery stenting and coronary
   angiography, course complicated by [**Hospital 238**] transfered to the CCU s/p
   catheterization and placement of stent to left circumflex.
   24 Hour Events:
   [**5-6**]
   - IP saw plenty of fluid, but it was loculated and tricky to approach.
   Therefore, they felt that risks of pneumo or hemothorax in light of
   asa/plavix may outweigh risk of empyema. They still felt that empyema
   was possible however so they said if pt spikes another fever, or white
   count still worsening that they would return for a diagnostic [**Female First Name (un) **]
   tomorrow (Friday)
   - renal: HD tunneled line tomorrow with IR, check c3/c4, try lasix
   120+gtt
   - stopping hep gtt at 5 am in caase IR wants to place line
   Allergies:
   Ciprofloxacin
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Furosemide (Lasix) - 10 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2202-5-6**] 05:01 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2202-5-7**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**04**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 35.9
C (96.6
   HR: 60 (57 - 68) bpm
   BP: 109/53(67) {84/45(59) - 151/90(107)} mmHg
   RR: 14 (13 - 20) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                    951 mL
                                                                    115 mL
   PO:
             TF:
   IVF:
                                                                    271 mL
                                                                    115 mL
   Blood products:
   Total out:
                                                                    137 mL
                                                                    171 mL
   Urine:
                                                                    137 mL
                                                                    171 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    814 mL
                                                                    -56 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///26/
   Physical Examination
   Gen: WDWN female in NAD. Oriented x3. Mood, affect appropriate.
   HEENT: Dry MMM
   Neck: Supple with JVP flat
   CV: RR, prominent S1, S2. [**4-3**] SM at LLSB. No S3 or S4.
   Chest: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. Rales at bases b/l and decreased
   breath sounds, no wheezes or rhonchi.
   Abd: Soft, NTND. No HSM or tenderness.
   Ext: No c/c. 2+ pitting edema at ankles.
   Skin: No stasis dermatitis, ulcers, scars, or xanthomas.
   Pulses:  R femoral pulse 1+, no hematomas noted
   Labs / Radiology
   266 K/uL
   8.6 g/dL
   165 mg/dL
   5.0 mg/dL
   26 mEq/L
   4.8 mEq/L
   62 mg/dL
   84 mEq/L
   126 mEq/L
   25.9 %
   16.2 K/uL
        [image002.jpg]
                             [**2202-5-3**]  10:30 PM
                             [**2202-5-4**]  06:10 AM
                             [**2202-5-4**]  02:15 PM
                             [**2202-5-4**]  05:43 PM
                             [**2202-5-4**]  09:54 PM
                             [**2202-5-5**]  02:40 AM
                             [**2202-5-5**]  03:47 PM
                             [**2202-5-6**]  06:24 AM
                             [**2202-5-6**]  03:27 PM
                             [**2202-5-7**]  06:12 AM
   WBC
   10.4
   11.7
   16.7
   16.7
   20.0
   16.2
   Hct
   23.8
   28.9
   27.1
   25.8
   29.3
   25.9
   Plt
   [**Telephone/Fax (2) 12078**]
   310
   266
   Cr
   1.8
   2.7
   3.6
   4.6
   5.0
   TropT
   3.32
   5.60
   6.13
   Glucose
   123
   123
   119
   108
   165
   Other labs: PT / PTT / INR:11.3/40.9/0.9, CK / CKMB /
   Troponin-T:183/11/6.13, ALT / AST:18/60, Alk Phos / T Bili:67/0.6,
   Differential-Neuts:84.0 %, Lymph:8.0 %, Mono:6.5 %, Eos:0.9 %, Lactic
   Acid:1.7 mmol/L, LDH:757 IU/L, Ca++:8.9 mg/dL, Mg++:2.2 mg/dL, PO4:4.8
   mg/dL
   Imaging: CT CHEST W/O CONTRAST [**2202-5-5**]:
   1. Bilateral moderate pleural effusions, dependent on the right, and
   apparently partially loculated on the left.
   2. Multifocal patchy consolidation and ground-glass opacities, most
   likely
   due to provided history of multifocal pneumonia.
   3. Mediastinal lymphadenopathy, likely hyperplastic in the setting of a
   clinical diagnosis of pneumonia, but a followup CT could be considered
   in
   three to six months to document resolution if warranted clinically.
   4. Persistent enhancement of renal parenchyma since prior contrast
   injection
   as part of previous procedure, in keeping with history of acute renal
   failure.
   Microbiology: No new micro
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 PULMONARY EDEMA
 PNEUMONIA, [**Hospital 57**] HOSPITAL ACQUIRED (NON-VAP)
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 .H/O RENAL ARTERY STENOSIS (RAS)
   Assessment and Plan
   Ms. [**Known lastname 5115**] is an 80 year old woman with a history of aortic stenosis
   s/p mechanical AVR [**8-4**], atrial fibrillation s/p cardioversion, HTN,
   GERD, and PVD who presented [**2202-4-25**] for elective coronary and renal
   angiogram complicated by pna and [**Last Name (un) **] and is transferred to the CCU s/p
   cath for hemodynamic monitoring.
   .
   # ARF on CKD/Renal Artery Stenosis: Patient with severe 95% R renal
   artery stenosis now s/p stenting on [**2202-4-26**]. Creatinine worsened in
   setting of cardiac and renal angiogram, may have been due to IV
   contrast, U/A supports this with granular casts c/w ATN. Creatinine
   continues to worsen, but now making urine on lasix gtt.
   - Renal recs, appreciate their input
   - continue lasix gtt
   - Add metolazone 5mg PO BID to augment diuresis
   - Considering temporary dialysis line, awaiting renal
s final
   recommendations
   - Renal diet (low K and low phos)
   - [**Hospital1 **] lytes
   - renally dose meds
 ask pharmacy for assistance
   .
   # Hypoxia: Most likely [**3-2**] bilateral moderate pleural effusions, L
   sided loculated. Etiology of effusions most likely CHF, however,
   parapneumonic/emypema in the ddx. Latter is unlikely given white count
   trending down and pt has been afebrile. Abx course complete. PE less
   likely as we have a good reason for the hypoxia.
   - Hold on thoracentesis given the complexity of the effusion and
   patient
s antiplatelet therapy
   - Nebs and mucolytics
   - If patient spikes again or decompensates will call IR again to
   perform diagnostic thoracentesis
   - Reculturing for blood and sputum given persistently elevated white
   count
   .
   #. CAD/NSTEMI:  Had overlapping BMSx2 to LCx and could not open chronic
   total occlusion of OM1.  Post-cath chest pain and anterior ST changes
   suggestive of LAD as site of culprit lesion for chest pain.  Upon
   return to the cath lab again could not open chronic total OM1
   occlusion, instead placed BMS to mid LAD calcified 80% lesion that had
   collaterals to inferior wall. Pt returned to floor CP free.
   - continue aspirin, plavix, atorvastatin 40
   - held heparin gtt in setting of considering HD, renal to call us back
   - Holding metoprolol 25mg PO TID
   #. history of AS s/p mechanical AVR: in [**2199**]. Last TTE shows EF >50%,
   [**1-30**]+MR, 3+TR. Following chest pain, patient found to have new S3,
   crackles on lung exam, concerning for heart failure. Patient does not
   have baseline BNP
   - Holding heparin gtt for now until renal gives answer for temp
   dialysis line
   - restart warfarin tomorrow, goal presumed to be 2.5-3.5
   .
   #. Atrial fibrillation: Patient with h/o Afib s/p cardioversion.
   Currently in NSR.
   - holding heparin gtt for now until renal provides answer for temp HD
   line
   - continue amiodarone, metoprolol
   - consider restarting warfarin after HD line decision
   .
   #. Hypertension:
   - holding metoprolol
   .
   #. GERD: Stable.
   - changed pantoprazole to ranitidine and renally dosed
   .
   #. Thyroid nodules/thyroid goiter: Continue home Levothyroxine.
   .
   #. Urinary Dysfunction: Continue home Terazosin, Oxybutynin per home
   regimen.
   .
   #. Degenerative joint disease: Pain control with Tylenol as per home
   regimen.
   .
   #. s/p cholesterol emboli to left eye:
   - continue anticoagulation
   .
   #. FEN: Cardiac HH diet; NPO at MN
   #. Access: PIV
   #. PPx: DVT ppx with Heparin gtt
   Bowel regimen with Senna, Colace prn
   Pain control with Tylenol
   #. Code: Full code per patient
   #. Contact: [**Name (NI) **] [**Name (NI) 5115**] (husband) # cell: [**Telephone/Fax (1) 12064**]
   Dr. [**First Name4 (NamePattern1) 297**] [**Last Name (NamePattern1) **]: [**Telephone/Fax (1) 12065**]
   #. Dispo: ccu
   .
   ICU Care
   Nutrition: Cardiac and renal diet
   Glycemic Control:
   Lines:
   22 Gauge - [**2202-5-3**] 10:30 PM
   20 Gauge - [**2202-5-3**] 10:30 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: Comments: Pt and pt
s husband
   [**Name (NI) 66**] status: Full code, confirmed
   Disposition: CCU

2202-05-08 06:29:00 Physician Resident Progress Note
Chief Complaint:  referred for right renal artery stenting and coronary
   angiography, course complicated by [**Hospital 238**] transfered to the CCU s/p
   catheterization and placement of stent to left circumflex.
   24 Hour Events:
 BLOOD CULTURED - At [**2202-5-7**] 11:49 AM
 URINE CULTURE - At [**2202-5-7**] 11:49 AM
   [**5-7**]
   - Na noted to be dropping, SCr rising on PM labs; Lasix infusion and
   metolazone held
   - heparin gtt restarted
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   History obtained from [**Hospital 85**] Medical recordsCiprofloxacin
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,300 units/hour
   Other ICU medications:
   Heparin Sodium - [**2202-5-8**] 02:10 AM
   Other medications:
   Changes to medical and family history:
   No CP or SOB
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2202-5-8**] 06:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**04**] AM
   Tmax: 36.2
C (97.1
   Tcurrent: 35
C (95
   HR: 65 (60 - 74) bpm
   BP: 138/55(76) {109/45(65) - 155/102(110)} mmHg
   RR: 15 (11 - 26) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  1,267 mL
                                                                     79 mL
   PO:
                                                                    840 mL
             TF:
   IVF:
                                                                    427 mL
                                                                     79 mL
   Blood products:
   Total out:
                                                                  1,254 mL
                                                                    500 mL
   Urine:
                                                                  1,254 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     13 mL
                                                                   -421 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 96%
   ABG: ///28/
   Physical Examination
   Gen: WDWN female in NAD. Oriented x3. Mood, affect appropriate.
   HEENT: Dry MMM
   Neck: Supple with JVP flat
   CV: RR, prominent S1, S2. [**4-3**] SM at LLSB. No S3 or S4.
   Chest: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. Rales at bases b/l and decreased
   breath sounds, no wheezes or rhonchi.
   Abd: Soft, NTND. No HSM or tenderness.
   Ext: No c/c. 2+ pitting edema at ankles.
   Skin: No stasis dermatitis, ulcers, scars, or xanthomas.
   Pulses:  R femoral pulse 1+, no hematomas noted
   Labs / Radiology
   294 K/uL
   9.0 g/dL
   111 mg/dL
   5.6 mg/dL
   28 mEq/L
   4.9 mEq/L
   72 mg/dL
   84 mEq/L
   125 mEq/L
   26.1 %
   15.5 K/uL
         [image002.jpg]
                             [**2202-5-4**]  02:15 PM
                             [**2202-5-4**]  05:43 PM
                             [**2202-5-4**]  09:54 PM
                             [**2202-5-5**]  02:40 AM
                             [**2202-5-5**]  03:47 PM
                             [**2202-5-6**]  06:24 AM
                             [**2202-5-6**]  03:27 PM
                             [**2202-5-7**]  06:12 AM
                             [**2202-5-7**]  05:55 PM
                             [**2202-5-7**]  11:55 PM
   WBC
   11.7
   16.7
   16.7
   20.0
   16.2
   15.5
   Hct
   28.9
   27.1
   25.8
   29.3
   25.9
   26.1
   Plt
   293
   304
   285
   291
   310
   266
   294
   Cr
   2.7
   3.6
   4.6
   5.0
   5.3
   5.6
   5.6
   TropT
   5.60
   6.13
   5.20
   Glucose
   123
   119
   108
   165
   107
   128
   111
   Other labs: PT / PTT / INR:11.4/34.4/0.9, CK / CKMB /
   Troponin-T:89/11/5.20, ALT / AST:[**1-28**], Alk Phos / T Bili:73/0.5,
   Differential-Neuts:84.0 %, Lymph:8.0 %, Mono:6.5 %, Eos:0.9 %, Lactic
   Acid:1.7 mmol/L, LDH:530 IU/L, Ca++:8.8 mg/dL, Mg++:2.5 mg/dL, PO4:5.2
   mg/dL
   Imaging: No new imaging
   Microbiology: [**2202-5-7**]  URINE URINE CULTURE-PENDING INPATIENT
   [**2202-5-7**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2202-5-7**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 PULMONARY EDEMA
 PNEUMONIA, [**Hospital 57**] HOSPITAL ACQUIRED (NON-VAP)
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 .H/O RENAL ARTERY STENOSIS (RAS)
   Ms. [**Known lastname 5115**] is an 80 year old woman with a history of aortic stenosis
   s/p mechanical AVR [**8-4**], atrial fibrillation s/p cardioversion, HTN,
   GERD, and PVD who presented [**2202-4-25**] for elective coronary and renal
   angiogram complicated by pna and [**Last Name (un) **] and is transferred to the CCU s/p
   cath for hemodynamic monitoring.
   .
   # ARF on CKD/Renal Artery Stenosis: Patient with severe 95% R renal
   artery stenosis now s/p stenting on [**2202-4-26**]. Creatinine worsened in
   setting of cardiac and renal angiogram, may have been due to IV
   contrast, U/A supports this with granular casts c/w ATN. Creatinine
   peaked at 5.6, and now making excellent urine off of lasix gtt!
   - Renal recs, appreciate their input
   - continue lasix gtt
   - DC metolazone
   - No further need for temporary dialysis line
   - Renal diet (low K and low phos)
   - [**Hospital1 **] lytes
   - renally dose meds
 ask pharmacy for assistance
   .
   # Hypoxia: Most likely [**3-2**] bilateral moderate pleural effusions, L
   sided loculated. Etiology of effusions most likely CHF, however,
   parapneumonic/emypema in the ddx. Latter is unlikely given white count
   trending down and pt has been afebrile. Abx course complete. PE less
   likely as we have a good reason for the hypoxia.
   - Hold on thoracentesis given the complexity of the effusion and
   patient
s antiplatelet therapy
   - Nebs and mucolytics
   - If patient spikes again or decompensates will call IR again to
   perform diagnostic thoracentesis
   - Pan cultures remain negative
   .
   # Hyponatremia: Suspect patient is intravascularly dry, therefore this
   may be consistent with hypovolemic hyonatremia. This is supported by
   sodium
s improvement after discontinuing the lasix gtt.
   - Monitor sodium with [**Hospital1 **] lytes
   - Encourage PO intake
   - Will discontinue lasix and metolazone
   .
   #. CAD/NSTEMI:  Had overlapping BMSx2 to LCx and could not open chronic
   total occlusion of OM1.  Post-cath chest pain and anterior ST changes
   suggestive of LAD as site of culprit lesion for chest pain.  Upon
   return to the cath lab again could not open chronic total OM1
   occlusion, instead placed BMS to mid LAD calcified 80% lesion that had
   collaterals to inferior wall. Pt returned to floor CP free.
   - continue aspirin, plavix, atorvastatin 40
   - reduce aspirin from 325 to 81 given heparin and Coumadin
   - Restart metoprolol 25mg PO TID if pressures and heart rate allow
   #. history of AS s/p mechanical AVR: in [**2199**]. Last TTE shows EF >50%,
   [**1-30**]+MR, 3+TR. Following chest pain, patient found to have new S3,
   crackles on lung exam, concerning for heart failure. Patient does not
   have baseline BNP
   - Continue heparin gtt
   - restart warfarin today, goal presumed to be 2.5-3.5
   .
   #. Atrial fibrillation: Patient with h/o Afib s/p cardioversion.
   Currently in NSR.
   - holding heparin gtt for now until renal provides answer for temp HD
   line
   - continue amiodarone, metoprolol
   - restart warfarin today
   .
   #. Hypertension:
   - holding metoprolol
   .
   #. GERD: Stable.
   - changed pantoprazole to ranitidine and renally dosed
   .
   #. Thyroid nodules/thyroid goiter: Continue home Levothyroxine.
   .
   #. Urinary Dysfunction: Continue home Terazosin, Oxybutynin per home
   regimen.
   .
   #. Degenerative joint disease: Pain control with Tylenol as per home
   regimen.
   .
   #. s/p cholesterol emboli to left eye:
   - continue anticoagulation
   .
   #. FEN: Cardiac HH diet; NPO at MN
   #. Access: PIV
   #. PPx: DVT ppx with Heparin gtt
   Bowel regimen with Senna, Colace prn
   Pain control with Tylenol
   #. Code: Full code per patient
   #. Contact: [**Name (NI) **] [**Name (NI) 5115**] (husband) # cell: [**Telephone/Fax (1) 12064**]
   Dr. [**First Name4 (NamePattern1) 297**] [**Last Name (NamePattern1) **]: [**Telephone/Fax (1) 12065**]
   #. Dispo: ccu
   .
   ICU Care
   Nutrition: Cardiac and renal diet
   Glycemic Control:
   Lines:
   22 Gauge - [**2202-5-3**] 10:30 PM
   20 Gauge - [**2202-5-3**] 10:30 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: Comments: Pt and pt
s husband
   [**Name (NI) 66**] status: Full code, confirmed
   Disposition: Floor if hyponatremia stabilizes
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr. [**Last Name (STitle) **].
   I would add the following remarks:
   History
   Making good urine output in response to diuretics and resolution of her
   ATN.  Her spirits are excellent.
   Medical Decision Making
   Mrs. [**Known lastname 5115**] is an 80 year old woman with recent renal artery stent
   placement and stent placement to the LCX (BMS) and LAD (BMS).  There
   was post procedural contrast induced nephropathy and a NSTEMI.  Her
   Creatinine has peaked at 5.6 mg/dL and she is now making urine.   She
   has a mechanical AVR and has been restarted on IV heparin to cross-over
   to warfarin.    We will continue her aspirin and clopidogrel but
   lowered her aspirin dose to aspirin 81 mg daily due to her concomitant
   warfarin therapy.
   ------ Protected Section Addendum Entered By:[**Name (NI) 5899**] [**Last Name (NamePattern1) 8906**], MD
   on:[**2202-5-8**] 11:02 ------

2202-05-09 06:44:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   Ms. [**Known lastname 5115**] is an 80 year old woman with a history of aortic stenosis
   s/p mechanical AVR [**8-4**], atrial fibrillation s/p cardioversion, HTN,
   GERD, and PVD who presented [**2202-4-25**] for elective coronary and renal
   angiogram complicated by pna and [**Last Name (un) **] and is transferred to the CCU s/p
   cath for hemodynamic monitoring.
   24 Hour Events:
   [**5-8**]
   - restarted warfarin, [**Month (only) 38**] asa to 81 mg
   - went back to 2g Na diet per renal recs
   - pm creatinine from 5.7 to 6.5
   [**5-7**]
   - Na noted to be dropping, SCr rising on PM labs; Lasix infusion and
   metolazone held
   - heparin gtt restarted
 EKG - At [**2202-5-8**] 08:00 PM
 EKG - At [**2202-5-9**] 04:30 AM
   Allergies:
   Ciprofloxacin
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2202-5-9**] 06:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**04**] AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.4
C (97.6
   HR: 79 (60 - 79) bpm
   BP: 123/78(87) {102/51(66) - 154/92(102)} mmHg
   RR: 22 (14 - 25) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 73.7 kg (admission): 70.7 kg
   Height: 64 Inch
             Total In:
                                                                  1,055 mL
                                                                    147 mL
   PO:
                                                                    740 mL
                                                                     60 mL
   TF:
   IVF:
                                                                    315 mL
                                                                     87 mL
   Blood products:
   Total out:
                                                                  1,510 mL
                                                                    470 mL
   Urine:
                                                                  1,510 mL
                                                                    470 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -455 mL
                                                                   -323 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///27/
   Physical Examination
   Gen: WDWN female in NAD. Oriented x3. Mood, affect appropriate.
   HEENT: Dry MMM
   Neck: Supple with JVP flat
   CV: RR, prominent S1, S2. [**4-3**] SM at LLSB. No S3 or S4.
   Chest: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. Rales at bases b/l and decreased
   breath sounds, no wheezes or rhonchi.
   Abd: Soft, NTND. No HSM or tenderness.
   Ext: No c/c. 2+ pitting edema at ankles.
   Skin: No stasis dermatitis, ulcers, scars, or xanthomas.
   Pulses:  R femoral pulse 1+, no hematomas noted
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   327 K/uL
   8.5 g/dL
   97 mg/dL
   5.8 mg/dL
   27 mEq/L
   4.9 mEq/L
   76 mg/dL
   82 mEq/L
   121 mEq/L
   25.3 %
   11.1 K/uL
        [image002.jpg]
                             [**2202-5-5**]  02:40 AM
                             [**2202-5-5**]  03:47 PM
                             [**2202-5-6**]  06:24 AM
                             [**2202-5-6**]  03:27 PM
                             [**2202-5-7**]  06:12 AM
                             [**2202-5-7**]  05:55 PM
                             [**2202-5-7**]  11:55 PM
                             [**2202-5-8**]  08:34 AM
                             [**2202-5-8**]  04:27 PM
                             [**2202-5-9**]  03:39 AM
   WBC
   16.7
   20.0
   16.2
   15.5
   13.1
   11.1
   Hct
   25.8
   29.3
   25.9
   26.1
   27.0
   25.3
   Plt
   291
   310
   266
   294
   335
   327
   Cr
   2.7
   3.6
   4.6
   5.0
   5.3
   5.6
   5.6
   5.7
   6.5
   5.8
   TropT
   5.60
   6.13
   5.20
   Glucose
   123
   119
   108
   165
   107
   128
   111
   161
   108
   97
   Other labs: PT / PTT / INR:12.0/78.8/1.0, CK / CKMB /
   Troponin-T:89/11/5.20, ALT / AST:15/31, Alk Phos / T Bili:77/0.5,
   Differential-Neuts:84.0 %, Lymph:8.0 %, Mono:6.5 %, Eos:0.9 %, Lactic
   Acid:1.7 mmol/L, LDH:524 IU/L, Ca++:8.5 mg/dL, Mg++:2.6 mg/dL, PO4:5.4
   mg/dL
   Assessment and Plan
   Ms. [**Known lastname 5115**] is an 80 year old woman with a history of aortic stenosis
   s/p mechanical AVR [**8-4**], atrial fibrillation s/p cardioversion, HTN,
   GERD, and PVD who presented [**2202-4-25**] for elective coronary and renal
   angiogram complicated by pna and [**Last Name (un) **] and was transferred to the CCU s/p
   cath for hemodynamic monitoring.
   .
   # Hyponatremia: Pt was noted to have hyponatremia and thought was that
   she was intravascularly dry after diuresis with lasix gtt, therefore
   her lasix gtt was held.  Her sodium initially improved, but trended
   down again.  Calculated fena and feurea were both elevated c/w ATN.
   Urine osms were 299 (not concentrated) which may be because kidneys can
   not concentrate or dilute urine in setting of ATN. Pt currently appears
   euvolemic.
   - Monitor sodium with [**Hospital1 **] lytes
   - fluid restrict 1.5 L
   - continue to trend
   # ARF on CKD/Renal Artery Stenosis: Patient with severe 95% R renal
   artery stenosis now s/p stenting on [**2202-4-26**]. Creatinine worsened in
   setting of cardiac and renal angiogram, may have been due to IV
   contrast, U/A supports this with granular casts c/w ATN. Pt made good
   urine on lasix gtt, but became hyponatremic and elevated creatinine so
   this was stopped.
   - Renal recs, appreciate their input
   - holding lasix gtt as euvolemic
   - No further need for temporary dialysis line as making urine
   - Renal diet (low K and low phos)
   - [**Hospital1 **] lytes
   - renally dose meds
 ask pharmacy for assistance
   .
   # Hypoxia: Most likely [**3-2**] bilateral moderate pleural effusions, L
   sided loculated. Etiology of effusions most likely CHF, however,
   parapneumonic/emypema in the ddx. Latter is unlikely given white count
   trending down and pt has been afebrile. Abx course complete. PE less
   likely as we have a good reason for the hypoxia.
   - Hold on thoracentesis given the complexity of the effusion and
   patient
s antiplatelet therapy
   - Nebs and mucolytics
   - If patient spikes again or decompensates will call IR again to
   perform diagnostic thoracentesis
   - Pan cultures remain negative
   .
   .
   #. CAD/NSTEMI:  Had overlapping BMSx2 to LCx and could not open chronic
   total occlusion of OM1.  Post-cath chest pain and anterior ST changes
   suggestive of LAD as site of culprit lesion for chest pain.  Upon
   return to the cath lab again could not open chronic total OM1
   occlusion, instead placed BMS to mid LAD calcified 80% lesion that had
   collaterals to inferior wall. Pt returned to floor CP free.
   - continue aspirin (81 mg given hep and Coumadin), plavix, atorvastatin
   40
   - Restart metoprolol 12.5 PO BID if pressures and heart rate allow
   #. history of AS s/p mechanical AVR: in [**2199**]. Last TTE shows EF >50%,
   [**1-30**]+MR, 3+TR.   INR today 1.8.
   - Continue heparin gtt bridge
   - restarted warfarin today, goal presumed to be 2.5-3.5
   .
   #. Atrial fibrillation: Patient with h/o Afib s/p cardioversion.
   Currently in NSR.
   - hep gtt and Coumadin as above
   - continue amiodarone, restart  metoprolol  as above
   .
   #. Hypertension:
   - restarting metoprolol at low dose and titrate up
   .
   #. GERD: Stable.
   - changed pantoprazole to ranitidine and renally dosed
   - giving TUMS for symptoms of heartburn (do not want to give Maalox
   given renal dysfunction)
   .
   #. Thyroid nodules/thyroid goiter: Continue home Levothyroxine.
   .
   #. Urinary Dysfunction: Continue home Terazosin, Oxybutynin per home
   regimen.
   .
   #. Degenerative joint disease: Pain control with Tylenol as per home
   regimen.
   .
   #. s/p cholesterol emboli to left eye:
   - continue anticoagulation
   .
   #. FEN: Cardiac HH diet
   #. Access: PIV
   #. PPx: DVT ppx with Heparin gtt/coumadin
   Bowel regimen with Senna, Colace prn
   Pain control with Tylenol
   #. Code: Full code per patient
   #. Contact: [**Name (NI) **] [**Name (NI) 5115**] (husband) # cell: [**Telephone/Fax (1) 12064**]
   Dr. [**First Name4 (NamePattern1) 297**] [**Last Name (NamePattern1) **]: [**Telephone/Fax (1) 12065**]
   #. Dispo: ccu
   .
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 PULMONARY EDEMA
 PNEUMONIA, [**Hospital 57**] HOSPITAL ACQUIRED (NON-VAP)
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 .H/O RENAL ARTERY STENOSIS (RAS)
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 12009**].
   I would add the following remarks:
   ------ Protected Section Addendum Entered By:[**Name (NI) 149**] [**Last Name (NamePattern1) **], MD
   on:[**2202-5-10**] 08:12 ------

2202-05-10 06:54:00 Physician Resident Progress Note
Chief Complaint: referred for right renal artery stenting and coronary
   angiography, course complicated by [**Hospital 238**] transfered to the CCU s/p
   catheterization and placement of stent to left circumflex.
   24 Hour Events:
   [**5-9**]
   - renal: hyponatremia is ATN, free water excess, no role for ADH
   receptor antagonist at this time
   - got zolpidem 2.5 mg for restless leg syndrome
   Allergies:
   Ciprofloxacin
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,210 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2202-5-10**] 06:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**04**] AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36.3
C (97.3
   HR: 74 (55 - 78) bpm
   BP: 128/64(71) {88/42(53) - 170/122(135)} mmHg
   RR: 20 (16 - 29) insp/min
   SpO2: 90%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 73.7 kg (admission): 70.7 kg
   Height: 64 Inch
             Total In:
                                                                  1,168 mL
                                                                     90 mL
   PO:
                                                                    840 mL
             TF:
   IVF:
                                                                    328 mL
                                                                     90 mL
   Blood products:
   Total out:
                                                                  1,744 mL
                                                                    225 mL
   Urine:
                                                                  1,744 mL
                                                                    225 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -576 mL
                                                                   -135 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 90%
   ABG: ///26/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   334 K/uL
   8.0 g/dL
   95 mg/dL
   5.3 mg/dL
   26 mEq/L
   4.6 mEq/L
   77 mg/dL
   83 mEq/L
   120 mEq/L
   24.0 %
   12.2 K/uL
        [image002.jpg]
                             [**2202-5-6**]  06:24 AM
                             [**2202-5-6**]  03:27 PM
                             [**2202-5-7**]  06:12 AM
                             [**2202-5-7**]  05:55 PM
                             [**2202-5-7**]  11:55 PM
                             [**2202-5-8**]  08:34 AM
                             [**2202-5-8**]  04:27 PM
                             [**2202-5-9**]  03:39 AM
                             [**2202-5-9**]  04:13 PM
                             [**2202-5-10**]  03:41 AM
   WBC
   20.0
   16.2
   15.5
   13.1
   11.1
   12.2
   Hct
   29.3
   25.9
   26.1
   27.0
   25.3
   24.0
   Plt
   [**Telephone/Fax (3) 12124**]35
   327
   334
   Cr
   4.6
   5.0
   5.3
   5.6
   5.6
   5.7
   6.5
   5.8
   5.4
   5.3
   TropT
   6.13
   5.20
   Glucose
   108
   165
   107
   128
   111
   161
   108
   97
   126
   95
   Other labs: PT / PTT / INR:11.9/117.9/1.0, CK / CKMB /
   Troponin-T:89/11/5.20, ALT / AST:15/31, Alk Phos / T Bili:77/0.5,
   Differential-Neuts:84.0 %, Lymph:8.0 %, Mono:6.5 %, Eos:0.9 %, Lactic
   Acid:1.7 mmol/L, LDH:524 IU/L, Ca++:8.4 mg/dL, Mg++:1.6 mg/dL, PO4:4.7
   mg/dL
   Microbiology: [**2202-5-9**]  STOOL CLOSTRIDIUM DIFFICILE TOXIN A & B
   TEST-FINAL INPATIENT
   [**2202-5-7**]  URINE URINE CULTURE-FINAL {YEAST} INPATIENT
   [**2202-5-7**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2202-5-7**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   Assessment and Plan
 IMPAIRED HEALTH MAINTENANCE
 ANXIETY
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 PULMONARY EDEMA
 PNEUMONIA, [**Hospital 57**] HOSPITAL ACQUIRED (NON-VAP)
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 .H/O RENAL ARTERY STENOSIS (RAS)
   Assessment and Plan
   Ms. [**Known lastname 5115**] is an 80 year old woman with a history of aortic stenosis
   s/p mechanical AVR [**8-4**], atrial fibrillation s/p cardioversion, HTN,
   GERD, and PVD who presented [**2202-4-25**] for elective coronary and renal
   angiogram complicated by pna and [**Last Name (un) **] and was transferred to the CCU s/p
   cath for hemodynamic monitoring.
   .
   # Hyponatremia: Pt was noted to have hyponatremia and thought was that
   she was intravascularly dry after diuresis with lasix gtt, therefore
   her lasix gtt was held.  Her sodium initially improved, but trended
   down again.  Calculated fena and feurea were both elevated c/w ATN.
   Urine osms were 299 (not concentrated) which may be because kidneys can
   not concentrate or dilute urine in setting of ATN. Pt currently appears
   euvolemic.
   - Monitor sodium with [**Hospital1 **] lytes
   - fluid restrict 1.5 L
   - 2gm sodium diet
   - continue to trend
   - if continues to worsen or becomes symptomatic consider cautious
   administration of hypertonic saline
   # ARF on CKD/Renal Artery Stenosis: Patient with severe 95% R renal
   artery stenosis now s/p stenting on [**2202-4-26**]. Creatinine worsened in
   setting of cardiac and renal angiogram, may have been due to IV
   contrast, U/A supports this with granular casts c/w ATN. Pt made good
   urine on lasix gtt, but became hyponatremic and elevated creatinine so
   this was stopped.
   - Renal recs, appreciate their input
   - fluid restrict per above
   - Renal diet (low K and low phos)
   - [**Hospital1 **] lytes
   - renally dose meds
 ask pharmacy for assistance
   .
   # Hypoxia: Improving. Most likely [**3-2**] bilateral moderate pleural
   effusions, L sided loculated, and resolving multifocal PNA. Etiology of
   effusions most likely CHF, however, parapneumonic/emypema in the ddx.
   Latter is unlikely given white count trending down and pt has been
   afebrile. Abx course complete. PE less likely as we have a good reason
   for the hypoxia.
   - Nebs and mucolytics
   - If patient spikes again or decompensates will call IR again to
   perform diagnostic thoracentesis
   - Pan cultures remain negative
   .
   #. CAD/NSTEMI:  Had overlapping BMSx2 to LCx and could not open chronic
   total occlusion of OM1.  Post-cath chest pain and anterior ST changes
   suggestive of LAD as site of culprit lesion for chest pain.  Upon
   return to the cath lab again could not open chronic total OM1
   occlusion, instead placed BMS to mid LAD calcified 80% lesion that had
   collaterals to inferior wall. Pt returned to floor CP free.
   - continue aspirin (81 mg given hep and Coumadin), plavix, atorvastatin
   40
   - Restart metoprolol 12.5 PO BID if pressures and heart rate allow
   #. history of AS s/p mechanical AVR: in [**2199**]. Last TTE shows EF >50%,
   [**1-30**]+MR, 3+TR.   INR today 1.8.
   - Continue heparin gtt bridge
   - continue warfarin goal presumed to be 2.5-3.5
   .
   #. Atrial fibrillation: Patient with h/o Afib s/p cardioversion.
   Currently in NSR.
   - hep gtt and Coumadin as above
   - continue amiodarone, restart  metoprolol  as above
   .
   #. Hypertension:
   - restarting metoprolol at low dose and titrate up
   .
   #. GERD: Stable.
   - changed pantoprazole to ranitidine and renally dosed
   - giving TUMS for symptoms of heartburn (do not want to give Maalox
   given renal dysfunction)
   .
   #. Thyroid nodules/thyroid goiter: Continue home Levothyroxine.
   .
   #. Urinary Dysfunction: Continue home Terazosin, Oxybutynin per home
   regimen.
   .
   #. Degenerative joint disease: Pain control with Tylenol as per home
   regimen.
   .
   #. s/p cholesterol emboli to left eye:
   - continue anticoagulation and statin
   .
   #. FEN: Cardiac HH diet
   #. Access: PIV
   #. PPx: DVT ppx with Heparin gtt/coumadin
   Bowel regimen with Senna, Colace prn
   Pain control with Tylenol
   #. Code: Full code per patient
   #. Contact: [**Name (NI) **] [**Name (NI) 5115**] (husband) # cell: [**Telephone/Fax (1) 12064**]
   Dr. [**First Name4 (NamePattern1) 297**] [**Last Name (NamePattern1) **]: [**Telephone/Fax (1) 12065**]
   #. Dispo: ccu
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2202-5-8**] 01:10 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   Exam:
   Gen: Pale elderly female very drowsy and weak but alert and responds
   appropriately. in NAD. Mood, affect appropriate.
   HEENT: Dry MMM
   Neck: Supple with JVP flat
   CV: RR, prominent S1, S2. [**4-3**] SM at LLSB. No S3 or S4.
   Chest: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. Rales at bases b/l and decreased
   breath sounds, no wheezes or rhonchi.
   Abd: Soft, NTND. No HSM or tenderness.
   Ext: No c/c trace edema at ankles.
   Skin: No stasis dermatitis, ulcers, scars, or xanthomas.
   Pulses:  R femoral pulse 1+, no hematomas noted
   Updated plan after rounds:
   Increasing warfarin dose to 3mg PO daily today
   Disposition to floor either today or tomorrow pending sodium trend
   Will discuss with renal regarding sodium trend and management
   ------ Protected Section Addendum Entered By:[**First Name4 (NamePattern1) 435**] [**Last Name (NamePattern1) **], MD
   on:[**2202-5-10**] 10:35 ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) **].
   I would add the following remarks:
   ------ Protected Section Addendum Entered By:[**Name (NI) 149**] [**Last Name (NamePattern1) **], MD
   on:[**2202-5-11**] 10:41 ------

2202-05-11 07:41:00 Physician Resident Progress Note
Chief Complaint: referred for right renal artery stenting and coronary
   angiography, course complicated by [**Hospital 238**] transfered to the CCU s/p
   catheterization and placement of stent to left circumflex.
   24 Hour Events:
   [**5-10**]
   - renal: hyponatremia may be multifactorial (ATN, free water excess).
   No role for ADH receptor antagonist at this time. Would continue to
   trend Na; would not use hypertonic saline unless clear symptoms.
   Allergies:
   Ciprofloxacin
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,200 units/hour
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2202-5-10**] 08:00 AM
   Coumadin (Warfarin) - [**2202-5-10**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pt with HA, nausea, and malaise
   Flowsheet Data as of  [**2202-5-11**] 07:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**04**] AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.9
C (96.7
   HR: 66 (53 - 70) bpm
   BP: 150/85(102) {103/46(63) - 166/102(116)} mmHg
   RR: 18 (14 - 25) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 73.7 kg (admission): 70.7 kg
   Height: 64 Inch
             Total In:
                                                                    810 mL
                                                                    209 mL
   PO:
                                                                    420 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    390 mL
                                                                     89 mL
   Blood products:
   Total out:
                                                                  1,325 mL
                                                                    470 mL
   Urine:
                                                                  1,325 mL
                                                                    470 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -515 mL
                                                                   -261 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ///26/
   Physical Examination
   Gen: Pale elderly female very drowsy and weak but alert and responds
   appropriately. in NAD. Mood, affect appropriate.
   HEENT: Dry MMM
   Neck: Supple with JVP flat
   CV: RR, prominent S1, S2. [**4-3**] SM at LLSB. No S3 or S4.
   Chest: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. Rales at bases b/l and decreased
   breath sounds, no wheezes or rhonchi.
   Abd: Soft, NTND. No HSM or tenderness.
   Ext: No c/c trace to 1+ edema at ankles.
   Skin: No stasis dermatitis, ulcers, scars, or xanthomas.
   Labs / Radiology
   334 K/uL
   8.0 g/dL
   104 mg/dL
   5.1 mg/dL
   26 mEq/L
   4.5 mEq/L
   75 mg/dL
   82 mEq/L
   118 mEq/L
   24.0 %
   12.2 K/uL
        [image002.jpg]
                             [**2202-5-7**]  06:12 AM
                             [**2202-5-7**]  05:55 PM
                             [**2202-5-7**]  11:55 PM
                             [**2202-5-8**]  08:34 AM
                             [**2202-5-8**]  04:27 PM
                             [**2202-5-9**]  03:39 AM
                             [**2202-5-9**]  04:13 PM
                             [**2202-5-10**]  03:41 AM
                             [**2202-5-10**]  01:40 PM
                             [**2202-5-10**]  10:57 PM
   WBC
   16.2
   15.5
   13.1
   11.1
   12.2
   Hct
   25.9
   26.1
   27.0
   25.3
   24.0
   Plt
   266
   294
   335
   327
   334
   Cr
   5.3
   5.6
   5.6
   5.7
   6.5
   5.8
   5.4
   5.3
   5.3
   5.1
   TropT
   5.20
   Glucose
   107
   128
   111
   161
   108
   97
   126
   95
   120
   104
   Other labs: PT / PTT / INR:11.9/76.6/1.0, CK / CKMB /
   Troponin-T:89/11/5.20, ALT / AST:15/31, Alk Phos / T Bili:77/0.5,
   Differential-Neuts:84.0 %, Lymph:8.0 %, Mono:6.5 %, Eos:0.9 %, Lactic
   Acid:1.7 mmol/L, LDH:524 IU/L, Ca++:8.4 mg/dL, Mg++:3.6 mg/dL, PO4:4.9
   mg/dL
   Assessment and Plan
 IMPAIRED HEALTH MAINTENANCE
 ANXIETY
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 PULMONARY EDEMA
 PNEUMONIA, [**Hospital 57**] HOSPITAL ACQUIRED (NON-VAP)
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 .H/O RENAL ARTERY STENOSIS (RAS)
   Ms. [**Known lastname 5115**] is an 80 year old woman with a history of aortic stenosis
   s/p mechanical AVR [**8-4**], atrial fibrillation s/p cardioversion, HTN,
   GERD, and PVD who presented [**2202-4-25**] for elective coronary and renal
   angiogram complicated by pna and [**Last Name (un) **] and was transferred to the CCU s/p
   cath for hemodynamic monitoring.
   .
   # Hyponatremia: Probably euvolemic to hypervolemic hyponatremia. This
   is most likely multifactorial with free water excess in the setting of
   ATN. This is evidenced by urine sodium and potassium of 71 meQ, which
   is 40% of the serum sodium concentration, with a urine output of 1300
   will give you roughly 500cc of free water loss. The urine sodium is too
   low for SIADH however high urine osms compared to sesrum osms is
   suggestive of a concominant SIADH. Salt wasting nephropathy is very
   rare and would be less likely than simple free water excess caused by
   the heparin gtt (300cc of D5W/day).
   - Changed heparin drip to normal saline instead of D5W
   - Monitor sodium with [**Hospital1 **] lytes
   - tighter fluid restriction from 1.5 L to 1 L per day
   - 2gm sodium diet
   - continue to trend
   - Now that pt with symptoms would consider cautious administration of
   hypertonic saline, however will need better access which has been a
   problem. [**Name (NI) **] have ongoing discussions with renal, appreciate their
   input greatly
   - Will stay in CCU one more day given unstable urine sodium
   # ARF on CKD/Renal Artery Stenosis: Patient with severe 95% R renal
   artery stenosis now s/p stenting on [**2202-4-26**]. Creatinine worsened in
   setting of cardiac and renal angiogram, may have been due to IV
   contrast, U/A supports this with granular casts c/w ATN. Pt made good
   urine on lasix gtt, but became hyponatremic and elevated creatinine so
   this was stopped.
   - Renal recs, appreciate their input
   - fluid restrict per above
   - Renal diet (low K and low phos)
   - [**Hospital1 **] lytes
   - renally dose meds
 ask pharmacy for assistance
   .
   # Hypoxia: Improving. Most likely [**3-2**] bilateral moderate pleural
   effusions, L sided loculated, and resolving multifocal PNA. Etiology of
   effusions most likely CHF, however, parapneumonic/emypema in the ddx.
   Latter is unlikely given white count trending down and pt has been
   afebrile. Abx course complete. PE less likely as we have a good reason
   for the hypoxia. Part of the reason is a poor pleth.
   - Nebs and mucolytics
   - Pan cultures remain negative
   .
   #. CAD/NSTEMI:  Had overlapping BMSx2 to LCx and could not open chronic
   total occlusion of OM1.  Post-cath chest pain and anterior ST changes
   suggestive of LAD as site of culprit lesion for chest pain.  Upon
   return to the cath lab again could not open chronic total OM1
   occlusion, instead placed BMS to mid LAD calcified 80% lesion that had
   collaterals to inferior wall. Pt returned to floor CP free.
   - continue aspirin (81 mg given hep and Coumadin), plavix, atorvastatin
   40
   - Restart metoprolol 12.5 PO BID given HTN
   - Restart Imdur at half dose given HTN
   - If still hypertensive, would consider amlodipine 5mg PO Daily
   #. history of AS s/p mechanical AVR: in [**2199**]. Last TTE shows EF >50%,
   [**1-30**]+MR, 3+TR.   INR today 1.8.
   - Continue heparin gtt bridge
   - continue warfarin goal presumed to be 2.5-3.5
   .
   #. Atrial fibrillation: Patient with h/o Afib s/p cardioversion.
   Currently in NSR.
   - hep gtt and Coumadin as above
   - continue amiodarone, restart  metoprolol  as above
   .
   #. Hypertension:
   - Plan per above (see CAD)
   .
   #. GERD: Stable.
   - changed pantoprazole to ranitidine and renally dosed
   - giving TUMS for symptoms of heartburn (do not want to give Maalox
   given renal dysfunction)
   .
   #. Thyroid nodules/thyroid goiter: Continue home Levothyroxine.
   .
   #. Urinary Dysfunction: Continue home Terazosin, Oxybutynin per home
   regimen.
   .
   #. Degenerative joint disease: Pain control with Tylenol as per home
   regimen.
   .
   #. s/p cholesterol emboli to left eye:
   - continue anticoagulation and statin
   .
   ICU CARE
   #. FEN: Cardiac HH diet
   #. Access:
   22 Gauge - [**2202-5-10**] 08:00 PM
   22 Gauge - [**2202-5-10**] 08:00 PM
   #. PPx: DVT ppx with Heparin gtt/coumadin
   Bowel regimen with Senna, Colace prn
   Pain control with Tylenol
   #. Code: Full code per patient
   #. Contact: [**Name (NI) **] [**Name (NI) 5115**] (husband) # cell: [**Telephone/Fax (1) 12064**]
   Dr. [**First Name4 (NamePattern1) 297**] [**Last Name (NamePattern1) **]: [**Telephone/Fax (1) 12065**]
   #. Dispo: CCU until hyponatremia stabilizes
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) **].
   I would add the following remarks:
   ------ Protected Section Addendum Entered By:[**Name (NI) 149**] [**Last Name (NamePattern1) **], MD
   on:[**2202-5-12**] 09:10 ------

2202-05-12 07:36:00 Physician Resident Progress Note
Chief Complaint: Referred for right renal artery stenting and coronary
   angiography, course complicated by [**Hospital 238**] transfered to the CCU s/p
   catheterization and placement of stent to left circumflex.
   24 Hour Events:
   [**Date range (1) 12146**]
   - Renal - would not start hypertonic saline, trend Na
   - started [**1-30**] home Imdur dose
   - passed a tablespoon-sized blood clot in the evening
   - Hct came back as 22 (from 27)
   - a.m. [**5-12**] made diet high protein
   - Stopped heparin
   Allergies:
   Ciprofloxacin
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2202-5-11**] 08:15 AM
   Coumadin (Warfarin) - [**2202-5-11**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   No CP or SOB. Headache has resolved.
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2202-5-12**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**04**] AM
   Tmax: 35.8
C (96.5
   Tcurrent: 35.8
C (96.5
   HR: 52 (51 - 72) bpm
   BP: 114/56(71) {114/48(45) - 156/92(104)} mmHg
   RR: 18 (14 - 54) insp/min
   SpO2: 98%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 73.7 kg (admission): 70.7 kg
   Height: 64 Inch
             Total In:
                                                                  1,046 mL
                                                                     84 mL
   PO:
                                                                    760 mL
             TF:
   IVF:
                                                                    286 mL
                                                                     84 mL
   Blood products:
   Total out:
                                                                  1,150 mL
                                                                    500 mL
   Urine:
                                                                  1,150 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -104 mL
                                                                   -416 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///28/
   Physical Examination
   Gen: Pale elderly female very drowsy and weak but alert and responds
   appropriately. in NAD. Mood, affect appropriate.
   HEENT: Dry MMM
   Neck: Supple with JVP flat
   CV: RR, prominent S1, S2. [**4-3**] SM at LLSB. No S3 or S4.
   Chest: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. Rales at bases b/l and decreased
   breath sounds, no wheezes or rhonchi.
   Abd: Soft, NTND. No HSM or tenderness.
   Ext: No c/c trace to 1+ edema at ankles.
   Skin: No stasis dermatitis, ulcers, scars, or xanthomas.
   Labs / Radiology
   330 K/uL
   7.4 g/dL
   99 mg/dL
   4.4 mg/dL
   28 mEq/L
   4.2 mEq/L
   72 mg/dL
   84 mEq/L
   119 mEq/L
   22.0 %
   11.1 K/uL
        [image002.jpg]
                             [**2202-5-8**]  08:34 AM
                             [**2202-5-8**]  04:27 PM
                             [**2202-5-9**]  03:39 AM
                             [**2202-5-9**]  04:13 PM
                             [**2202-5-10**]  03:41 AM
                             [**2202-5-10**]  01:40 PM
                             [**2202-5-10**]  10:57 PM
                             [**2202-5-11**]  10:00 AM
                             [**2202-5-11**]  03:52 PM
                             [**2202-5-12**]  02:59 AM
   WBC
   13.1
   11.1
   12.2
   12.6
   11.1
   Hct
   27.0
   25.3
   24.0
   27.0
   22.0
   Plt
   335
   327
   334
   343
   330
   Cr
   5.7
   6.5
   5.8
   5.4
   5.3
   5.3
   5.1
   4.9
   4.6
   4.4
   Glucose
   161
   108
   97
   126
   95
   120
   104
   133
   106
   99
   Other labs: PT / PTT / INR:13.3/88.7/1.1, CK / CKMB /
   Troponin-T:89/11/5.20, ALT / AST:15/31, Alk Phos / T Bili:77/0.5,
   Differential-Neuts:84.0 %, Lymph:8.0 %, Mono:6.5 %, Eos:0.9 %, Lactic
   Acid:1.7 mmol/L, LDH:524 IU/L, Ca++:8.1 mg/dL, Mg++:3.3 mg/dL, PO4:4.5
   mg/dL
   Assessment and Plan
 HYPOXEMIA
 IMPAIRED PHYSICAL MOBILITY
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 IMPAIRED HEALTH MAINTENANCE
 ANXIETY
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 PULMONARY EDEMA
 PNEUMONIA, [**Hospital 57**] HOSPITAL ACQUIRED (NON-VAP)
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 .H/O RENAL ARTERY STENOSIS (RAS)
   Ms. [**Known lastname 5115**] is an 80 year old woman with a history of aortic stenosis
   s/p mechanical AVR [**8-4**], atrial fibrillation s/p cardioversion, HTN,
   GERD, and PVD who presented [**2202-4-25**] for elective coronary and renal
   angiogram complicated by pna and [**Last Name (un) **] and was transferred to the CCU s/p
   cath for hemodynamic monitoring.
   .
   # GI bleed: Unclear etiology, given red coloration, this is suggestive
   of lower GI bleed. The lack of pain would suspect diverticulosis
   exacerbated by constipation and anticoagulation. Ddx includes AVM,
   colonic cancer.
   - Hold heparin gtt until HCT stabilizes
   - Transfuse 1 units PRBCs
   - Consider lasix after transfusion based on O2/respiratory status
   - Keep active type and screen
   - Maintain two large bore peripheral IVs
   - guiac all stools
   - Will remain in CCU given bleed
   # Hyponatremia: Probably euvolemic to hypervolemic hyponatremia. This
   is most likely multifactorial with free water excess in the setting of
   ATN. This is evidenced by urine sodium and potassium of 71 meQ, which
   is 40% of the serum sodium concentration, with a urine output of 1300
   will give you roughly 500cc of free water loss. The urine sodium is too
   low for SIADH however high urine osms compared to sesrum osms is
   suggestive of a concominant SIADH. Salt wasting nephropathy is very
   rare and would be less likely than simple free water excess caused by
   the heparin gtt (300cc of D5W/day).
   - Monitor sodium with [**Hospital1 **] lytes
   - tighter fluid restriction from 1.5 L to 1 L per day
   - 2gm sodium diet
   - continue to trend
   - Monitor for symptoms
   # ARF on CKD/Renal Artery Stenosis: Patient with severe 95% R renal
   artery stenosis now s/p stenting on [**2202-4-26**]. Creatinine worsened in
   setting of cardiac and renal angiogram, may have been due to IV
   contrast, U/A supports this with granular casts c/w ATN. Pt made good
   urine on lasix gtt, but became hyponatremic and elevated creatinine so
   this was stopped.
   - Trend creatinine
   - Renal recs, appreciate their input
   - fluid restrict per above
   - Renal diet (low K and low phos)
   - [**Hospital1 **] lytes
   - renally dose meds
 ask pharmacy for assistance
   .
   # Hypoxia: Improving. Most likely [**3-2**] bilateral moderate pleural
   effusions, L sided loculated, and resolving multifocal PNA. Etiology of
   effusions most likely CHF, however, parapneumonic/emypema in the ddx.
   Latter is unlikely given white count trending down and pt has been
   afebrile. Abx course complete. PE less likely as we have a good reason
   for the hypoxia. Part of the reason is a poor pleth. Not improving.
   - Repeat CXR to r/o reversible causes such as edema, or infiltrate
   - Nebs and mucolytics
   - Pan cultures remain negative
   .
   #. CAD/NSTEMI:  Had overlapping BMSx2 to LCx and could not open chronic
   total occlusion of OM1.  Post-cath chest pain and anterior ST changes
   suggestive of LAD as site of culprit lesion for chest pain.  Upon
   return to the cath lab again could not open chronic total OM1
   occlusion, instead placed BMS to mid LAD calcified 80% lesion that had
   collaterals to inferior wall. Pt returned to floor CP free.
   - continue aspirin (81 mg given hep and Coumadin), plavix, atorvastatin
   40
   - Continue metoprolol 12.5 PO BID given HTN
   - Restart Imdur at half dose given HTN
   - If still hypertensive, would consider amlodipine 5mg PO Daily
   - Low threshold to hold antihypertensives if HCT drops more acutely or
   pt shows any signs of hemodynamic instability
   #. history of AS s/p mechanical AVR: in [**2199**]. Last TTE shows EF >50%,
   [**1-30**]+MR, 3+TR.
   - Hold heparin gtt
   - Hold warfarin
   .
   #. Atrial fibrillation: Patient with h/o Afib s/p cardioversion.
   Currently in NSR.
   - Hold hep gtt and Coumadin as above
   - continue amiodarone, restart  metoprolol as above
   .
   #. Hypertension:
   - Plan per above (see CAD)
   .
   #. GERD: Stable.
   - changed pantoprazole to ranitidine and renally dosed
   - giving TUMS for symptoms of heartburn (do not want to give Maalox
   given renal dysfunction)
   .
   #. Thyroid nodules/thyroid goiter: Continue home Levothyroxine.
   .
   #. Urinary Dysfunction: Continue home Terazosin, Oxybutynin per home
   regimen.
   .
   #. Degenerative joint disease: Pain control with Tylenol as per home
   regimen.
   .
   #. s/p cholesterol emboli to left eye:
   - continue anticoagulation and statin
   .
   ICU CARE
   #. FEN: Cardiac HH diet
   #. Access:
   22 Gauge - [**2202-5-10**] 08:00 PM
   22 Gauge - [**2202-5-10**] 08:00 PM
   #. PPx: DVT ppx with Heparin gtt/coumadin
   Bowel regimen with Senna, Colace prn
   Pain control with Tylenol
   #. Code: Full code per patient
   #. Contact: [**Name (NI) **] [**Name (NI) 5115**] (husband) # cell: [**Telephone/Fax (1) 12064**]
   Dr. [**First Name4 (NamePattern1) 297**] [**Last Name (NamePattern1) **]: [**Telephone/Fax (1) 12065**]
   #. Dispo: CCU until GI bleed and hyponatremia stabilizes
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) **].
   I would add the following remarks:
   ------ Protected Section Addendum Entered By:[**Name (NI) 149**] [**Last Name (NamePattern1) **], MD
   on:[**2202-5-13**] 12:16 ------

2202-05-13 07:07:00 Physician Resident Progress Note
Chief Complaint: referred for right renal artery stenting and coronary
   angiography, course complicated by [**Hospital 238**] transfered to the CCU s/p
   catheterization and placement of stent to left circumflex.
   24 Hour Events:
 PICC LINE - START [**2202-5-12**] 06:00 PM
   left brachial
   [**5-12**]/-[**5-13**]
   - 1 unit of RBCs transfused without trouble breathing
   - got PICC placed
   Allergies:
   Ciprofloxacin
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   No CP or SOB. Feels the same.
   Flowsheet Data as of  [**2202-5-13**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**04**] AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36.1
C (97
   HR: 56 (56 - 69) bpm
   BP: 147/53(73) {125/50(71) - 184/91(101)} mmHg
   RR: 27 (14 - 50) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 73.7 kg (admission): 70.7 kg
   Height: 64 Inch
                  Total In:
                                                                  1,394 mL
                  PO:
                                                                    960 mL
                  TF:
   IVF:
                                                                     84 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  1,530 mL
                                                                    360 mL
   Urine:
                                                                  1,530 mL
                                                                    360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -136 mL
                                                                   -360 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///32/
   Physical Examination
   Gen: Pale elderly female very drowsy and weak but alert and responds
   appropriately in NAD. Mood, affect appropriate.
   HEENT: Dry MMM
   Neck: Supple with JVP flat
   CV: RR, prominent S1, S2. [**4-3**] SM at LLSB. No S3 or S4.
   Chest: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. Rales at bases b/l and decreased
   breath sounds, no wheezes or rhonchi.
   Abd: Soft, NTND. No HSM or tenderness.
   Ext: No c/c trace to 1+ edema at ankles.
   Skin: No stasis dermatitis, ulcers, scars, or xanthomas.
   Labs / Radiology
   CXR AP [**2202-5-12**] (wetread):
   left PICC ends lower SVC. left upper lobe opacity improved. bilateral
   pleural
   effusions, stable.
   325 K/uL
   8.9 g/dL
   101 mg/dL
   4.2 mg/dL
   32 mEq/L
   4.4 mEq/L
   69 mg/dL
   86 mEq/L
   125 mEq/L
   26.3 %
   9.7 K/uL
        [image002.jpg]
                             [**2202-5-9**]  04:13 PM
                             [**2202-5-10**]  03:41 AM
                             [**2202-5-10**]  01:40 PM
                             [**2202-5-10**]  10:57 PM
                             [**2202-5-11**]  10:00 AM
                             [**2202-5-11**]  03:52 PM
                             [**2202-5-12**]  02:59 AM
                             [**2202-5-12**]  09:32 AM
                             [**2202-5-12**]  06:08 PM
                             [**2202-5-13**]  04:49 AM
   WBC
   12.2
   12.6
   11.1
   12.5
   9.7
   Hct
   24.0
   27.0
   22.0
   24.7
   29.4
   26.3
   Plt
   [**Telephone/Fax (3) 12155**]73
   325
   Cr
   5.4
   5.3
   5.3
   5.1
   4.9
   4.6
   4.4
   4.2
   4.2
   Glucose
   126
   95
   120
   104
   133
   106
   99
   131
   101
   Other labs: PT / PTT / INR:14.0/28.4/1.2, CK / CKMB /
   Troponin-T:89/11/5.20, ALT / AST:15/31, Alk Phos / T Bili:77/0.5,
   Differential-Neuts:84.0 %, Lymph:8.0 %, Mono:6.5 %, Eos:0.9 %, Lactic
   Acid:1.7 mmol/L, LDH:524 IU/L, Ca++:8.4 mg/dL, Mg++:3.1 mg/dL, PO4:4.7
   mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
 HYPOXEMIA
 IMPAIRED PHYSICAL MOBILITY
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 IMPAIRED HEALTH MAINTENANCE
 ANXIETY
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 PULMONARY EDEMA
 PNEUMONIA, [**Hospital 57**] HOSPITAL ACQUIRED (NON-VAP)
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 .H/O RENAL ARTERY STENOSIS (RAS)
   Ms. [**Known lastname 5115**] is an 80 year old woman with a history of aortic stenosis
   s/p mechanical AVR [**8-4**], atrial fibrillation s/p cardioversion, HTN,
   GERD, and PVD who presented [**2202-4-25**] for elective coronary and renal
   angiogram complicated by pna and [**Last Name (un) **] and was transferred to the CCU s/p
   cath for hemodynamic monitoring.
   .
   # GI bleed: Unclear etiology, given red coloration, this is suggestive
   of lower GI bleed. The lack of pain would suspect diverticulosis
   exacerbated by constipation and anticoagulation. Ddx includes AVM,
   colonic cancer.
   - Recheck HCT at 1pm, if stable, then would favor restarting heparin
   gtt and warfarin without a bolus
   - TID HCTs
   - Keep active type and screen
   - Maintain two large bore peripheral IVs
   - guiac all stools
   - Pantoprazole 40mg IV Q24H for one more day, if HCT remains stable can
   DC tomorrow
   # Hyponatremia: Improving. Probably euvolemic to hypervolemic
   hyponatremia. This is most likely multifactorial with free water excess
   in the setting of ATN. The urine sodium is too low for SIADH however
   high urine osms compared to sesrum osms is suggestive of a concominant
   SIADH. Salt wasting nephropathy is very rare and would be less likely
   than simple free water excess caused by the heparin gtt (300cc of
   D5W/day).
   - Monitor sodium with [**Hospital1 **] lytes
   - continue tighter fluid restriction from 1.5 L to 1 L per day
   - 2gm sodium diet
   - continue to trend
   - Monitor for symptoms
   # ARF on CKD/Renal Artery Stenosis: Patient with severe 95% R renal
   artery stenosis now s/p stenting on [**2202-4-26**]. Creatinine worsened in
   setting of cardiac and renal angiogram, may have been due to IV
   contrast, U/A supports this with granular casts c/w ATN. Pt made good
   urine on lasix gtt, but became hyponatremic and elevated creatinine so
   this was stopped.
   - Trend creatinine
   - Renal recs, appreciate their input
   - fluid restrict per above
   - Renal diet (low K and low phos)
   - [**Hospital1 **] lytes
   - renally dose meds
 ask pharmacy for assistance
   .
   # Hypoxia: Improving. Most likely [**3-2**] bilateral moderate pleural
   effusions, L sided loculated, and resolving multifocal PNA. Etiology of
   effusions most likely CHF, however, parapneumonic/emypema in the ddx.
   Latter is unlikely given white count trending down and pt has been
   afebrile. Abx course complete. PE less likely as we have a good reason
   for the hypoxia. Part of the reason is a poor pleth. Not improving.
   - f/u final read CXR
   - Nebs and mucolytics
   - Pan cultures remain negative
   - Consider trial of diuresis, perhaps when hyponatremia stabilizes
   .
   #. CAD/NSTEMI:  Had overlapping BMSx2 to LCx and could not open chronic
   total occlusion of OM1.  Post-cath chest pain and anterior ST changes
   suggestive of LAD as site of culprit lesion for chest pain.  Upon
   return to the cath lab again could not open chronic total OM1
   occlusion, instead placed BMS to mid LAD calcified 80% lesion that had
   collaterals to inferior wall. Pt returned to floor CP free.
   - continue aspirin (81 mg given hep and Coumadin), plavix, atorvastatin
   40
   - Continue metoprolol 12.5 PO BID given HTN
   - Restart Imdur at half dose given HTN
   - If still hypertensive, would consider amlodipine 5mg PO Daily
   - Low threshold to hold antihypertensives if HCT drops more acutely or
   pt shows any signs of hemodynamic instability
   #. history of AS s/p mechanical AVR: in [**2199**]. Last TTE shows EF >50%,
   [**1-30**]+MR, 3+TR.
   - Restart heparin gtt if PM HCT remains stable
   - Restart warfarin if PM HCT remains stable
   .
   #. Atrial fibrillation: Patient with h/o Afib s/p cardioversion.
   Currently in NSR.
   - Restart hep gtt and Coumadin as above
   - continue amiodarone, restart  metoprolol as above
   .
   #. Hypertension:
   - Plan per above (see CAD)
   .
   #. GERD: Stable.
   - pantoprazole 40mg IV Q24H
   - giving TUMS for symptoms of heartburn (do not want to give Maalox
   given renal dysfunction)
   .
   #. Thyroid nodules/thyroid goiter: Continue home Levothyroxine.
   .
   #. Urinary Dysfunction: Continue home Terazosin, Oxybutynin per home
   regimen.
   .
   #. Degenerative joint disease: Pain control with Tylenol as per home
   regimen.
   .
   #. s/p cholesterol emboli to left eye:
   - continue anticoagulation and statin
   .
   ICU CARE
   #. FEN: Cardiac HH diet
   #. Access:
   22 Gauge - [**2202-5-10**] 08:00 PM
   22 Gauge - [**2202-5-10**] 08:00 PM
   PICC Line - [**2202-5-12**] 06:00 PM
   #. PPx: DVT ppx with Heparin gtt/coumadin
   Bowel regimen with Senna, Colace prn
   Pain control with Tylenol
   #. Code: Full code per patient
   #. Contact: [**Name (NI) **] [**Name (NI) 5115**] (husband) # cell: [**Telephone/Fax (1) 12064**]
   Dr. [**First Name4 (NamePattern1) 297**] [**Last Name (NamePattern1) **]: [**Telephone/Fax (1) 12065**]
   #. Dispo: CCU until GI bleed and hyponatremia stabilizes